US08008505B2
43.2 [rac]-4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid
In analogy to the procedure described in example 7.2, [rac]-4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester was treated with 1 N aqueous lithium hydroxide solution in THF and MeOH to give the title compound as off-white solid. MS: m/e=539.3 [M+H+].

reactant | [rac]-4-{2-[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)OCC(C1CCCCC1)C=1N(N=C2C=C(C(=CC12)F)F)C1=CC=C(C=C1)Cl)C)=O | C31H31ClF2N2O3
reactant | lithium hydroxide | 1 N | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [rac]-4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(COC1=C(C=C(C(=O)O)C=C1C)C)C1CCCCC1)F)F | C30H29ClF2N2O3
